US08912207B2
To a magnetically stirred suspension of 4-methoxybenzaldehyde O-(4-amino-5-fluoropyrimidin-2-yl)oxime (0.075 g, 0.29 mmol) in anhydrous DMF (0.2 mL) was added DMF-DMA (0.068 g, 0.57 mmol) and the resulting mixture was stirred at room temperature for 3 h. The reaction mixture was diluted with Et2O (10 mL) and then was cooled to 0° C. The resulting solid was collected by vacuum filtration, and the cake was washed with cold Et2O followed by hexanes. The precipitate that formed in the filtrate was collected by vacuum filtration and the combined solids were dried under vacuum to give N′-{5-fluoro-2-[1-(4-methoxyphenyl)-methylideneaminooxy]pyrimidin-4-yl}-N,N-dimethylformamidine (0.069 g, 76%) as a white solid: mp 243-245° C. dec; 1H NMR (300 MHz, DMSO-d6) δ 8.68 (s, 1H), 8.60 (s, 1H), 8.26 (d, J=2.7 Hz, 1H), 7.73 (d, J=8.6 Hz, 2H), 7.05 (d, J=8.6 Hz, 2H), 3.82 (s, 3H), 3.21 (s, 3H), 3.10 (s, 3H); ESIMS m/z 318 ([M+H]+).

reactant | 4-methoxybenzaldehyde O-(4-amino-5-fluoropyrimidin-2-yl)oxime | 0.29 mmol, 0.075 g | NC1=NC(=NC=C1F)ON=CC1=CC=C(C=C1)OC | C12H11FN4O2
reactant | DMF-DMA | 0.57 mmol, 0.068 g | CN(C)C(OC)OC | C5H13NO2
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | N′-{5-fluoro-2-[1-(4-methoxyphenyl)-methylideneaminooxy]pyrimidin-4-yl}-N,N-dimethylformamidine | 0.069 g, 76% | FC=1C(=NC(=NC1)ON=CC1=CC=C(C=C1)OC)N=CN(C)C | C15H16FN5O2
